US08685977B2
tert-butyl 5-chloro-2,4-difluorobenzoate
5-chloro-2,4-difluorobenzoic acid (190 g, 986.8 mol) and N,N-dimethylpyridin-4-amine (12.05 g, 0.0986 mol) were dissolved tert-butanol (1 L). Di-tert-butyl dicarbonate (445 g, 2.039 mol) was added and the reaction heated to 50° C. for 16 hours. The solvent was concentrated in vacuo and the crude was taken up in ethyl acetate (300 mL). The organic layer was washed subsequently with a solution of hydrochloric acid (1M, 300 mL), aqueous brine (2×150 mL) and an aqueous solution of saturated sodium hydrogen carbonate. The organic layer was collected, dried over sodium sulfate, filtered and concentrated in vacuo to give title compound as a dark orange oil (243 g, 99%).

reactant | 5-chloro-2,4-difluorobenzoic acid | 986.8 mol, 190 g | ClC=1C(=CC(=C(C(=O)O)C1)F)F | C7H3ClF2O2
reactant | Di-tert-butyl dicarbonate | 2.039 mol, 445 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | N,N-dimethylpyridin-4-amine | 0.0986 mol, 12.05 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tert-butanol | 1 L | C(C)(C)(C)O | C4H10O
product | tert-butyl 5-chloro-2,4-difluorobenzoate | 243 g, 99% | ClC=1C(=CC(=C(C(=O)OC(C)(C)C)C1)F)F | C11H11ClF2O2
